US05286497
A) PREPARATION OF DILTIAZEM BLEND
To an 80 cubic foot blender is charged 188 kg of diltiazem HCl, 94.0 kg of fumaric acid NF, 94 kg of talc, 2.8 kg of silicon dioxide, and an additional 188 kg of diltiazem HCl. The mixture is dry blended for 15 minutes and then milled through a 0.013 inch screen.

reactant | diltiazem HCl | 188 kg | CC(=O)O[C@@H]1[C@@H](SC=2C=CC=CC2N(C1=O)CCN(C)C)C=3C=CC(=CC3)OC.Cl
reactant | fumaric acid | 94.0 kg | C(\C=C\C(=O)O)(=O)O | C4H4O4
reactant | silicon dioxide | 2.8 kg | [Si](=O)=O | O2Si
reactant | diltiazem HCl | 188 kg | CC(=O)O[C@@H]1[C@@H](SC=2C=CC=CC2N(C1=O)CCN(C)C)C=3C=CC(=CC3)OC.Cl
product | DILTIAZEM | CC(=O)O[C@@H]1[C@@H](SC=2C=CC=CC2N(C1=O)CCN(C)C)C=3C=CC(=CC3)OC | C22H26N2O4S
